data/polar.json
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[cH:1]1[c:28]([CH:14]=[C:20]2[S:6][c:26]3[cH:22][cH:7][cH:15][cH:5][c:24]3[N:32]2[CH3:27])[cH:2][cH:30][cH:31][cH:29]1.[cH:3]1[cH:12][cH:4][c:8]2[c:13]([o+:9][c:11](-[c:23]3[cH:18][cH:16][cH:25][cH:17][cH:19]3)[cH:10][cH:21]2)[cH:33]1>>[cH:1]1[c:28]([CH:14]([c:20]2[s:6][c:26]3[cH:22][cH:7][cH:15][cH:5][c:24]3[n+:32]2[CH3:27])[CH:21]2[c:8]3[cH:4][cH:12][cH:3][cH:33][c:13]3[O:9][C:11]([c:23]3[cH:18][cH:16][cH:25][cH:17][cH:19]3)=[CH:10]2)[cH:2][cH:30][cH:31][cH:29]1", "epd": [["LP-/Pi+", [32], [20, 32]], ["Pi-/Sigma+", [14, 20], [14, 21]], ["Pi-/Pi+", [21, 10], [10, 11]], ["Pi-/LP+", [11, 9], [9]]]}
{"reaction_name": "Aryne generation from silyl aryl triflates", "rsmi": "[c:1]1([Si:7]([CH3:8])([CH3:9])[CH3:10])[c:2]([O:11][S:12](=[O:13])(=[O:14])[C:15]([F:16])([F:17])[F:18])[cH:3][cH:4][cH:5][cH:6]1.[F-:19]>>[C:1]1#[C:2][CH:3]=[CH:4][CH:5]=[CH:6]1.[F:19][Si:7]([CH3:8])([CH3:9])[CH3:10].[O-:11][S:12](=[O:13])(=[O:14])[C:15]([F:16])([F:17])[F:18]", "epd": [["Sigma-/Pi+", [1, 7], [1, 2]], ["LP-/Sigma+", [19], [7, 19]], ["Sigma-/LP+", [2, 11], [11]]]}
{"reaction_name": "Aromatic chlorination", "rsmi": "[Cl:1][Cl:2].[c:3]1([H:9])[cH:4][cH:5][cH:6][cH:7][cH:8]1>>[Cl:1][c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1.[Cl:2][H:9]", "epd": [["LP-/Sigma+", [1], [1, 3]], ["Sigma-/LP+", [1, 2], [1]], ["Sigma-/Sigma+", [3, 9], [2, 9]]]}
{"reaction_name": "General E1cb elimination", "rsmi": "[CH3:1][CH:3]([CH:2]([C:4]([CH3:6])=[O:9])[H:10])[OH:8].[O-:5][CH3:7]>>[CH3:1][CH:3]=[CH:2][C:4]([CH3:6])=[O:9].[O:5]([CH3:7])[H:10].[OH-:8]", "epd": [["LP-/Sigma+", [5], [5, 10]], ["Sigma-/Pi+", [2, 10], [2, 3]], ["Sigma-/LP+", [3, 8], [8]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]1(=[O:9])[CH:24]=[CH:16][C:23](=[N+:26]([O-:21])[O-:22])[CH:17]=[CH:25]1.[cH:2]1[cH:3][cH:12][cH:5][c:6]2[c:4]1[N+:18]([CH3:8])=[CH:11][C:10]2=[CH:7][c:15]1[cH:13][cH:19][cH:27][cH:20][cH:14]1>>[c:1]1([O:9][CH:7]([c:10]2[c:6]3[c:4]([cH:2][cH:3][cH:12][cH:5]3)[n:18]([CH3:8])[cH:11]2)[c:15]2[cH:13][cH:19][cH:27][cH:20][cH:14]2)[cH:24][cH:16][c:23]([N+:26](=[O:21])[O-:22])[cH:17][cH:25]1", "epd": [["LP-/Pi+", [21], [26, 21]], ["Pi-/Pi+", [23, 26], [16, 23]], ["Pi-/Pi+", [24, 16], [1, 24]], ["Pi-/Sigma+", [9, 1], [9, 7]], ["Pi-/Pi+", [7, 10], [10, 11]], ["Pi-/LP+", [11, 18], [18]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]([CH:14]1[N+:22](=[CH:5][CH:40]=[CH:15][c:33]2[cH:8][cH:26][cH:4][cH:27][cH:9]2)[CH:20]([CH2:42][c:38]2[cH:51][cH:17][cH:29][cH:18][cH:52]2)[C:32](=[O:10])[N:39]1[CH3:31])([CH3:34])([CH3:35])[CH3:36].[cH:2]1[cH:6][c:47]([B-:48]2([c:19]3[s:28][c:16]([CH3:37])[cH:21][cH:41]3)[O:12][c:49]3[cH:44][cH:46][cH:45][cH:43][c:50]3[O:13]2)[cH:7][cH:3][c:11]1[C:30]([F:23])([F:24])[F:25]>>[C:1]([CH:14]1[N:22]([CH:5]=[CH:40][CH:15]([c:19]2[s:28][c:16]([CH3:37])[cH:21][cH:41]2)[c:33]2[cH:8][cH:26][cH:4][cH:27][cH:9]2)[CH:20]([CH2:42][c:38]2[cH:51][cH:17][cH:29][cH:18][cH:52]2)[C:32](=[O:10])[N:39]1[CH3:31])([CH3:34])([CH3:35])[CH3:36].[cH:2]1[cH:6][c:47](-[b-:48]2[o+:12][c:49]3[cH:44][cH:46][cH:45][cH:43][c:50]3[o:13]2)[cH:7][cH:3][c:11]1[C:30]([F:23])([F:24])[F:25]", "epd": [["LP-/Pi+", [12], [48, 12]], ["Sigma-/Sigma+", [19, 48], [19, 15]], ["Pi-/Pi+", [15, 40], [40, 5]], ["Pi-/LP+", [5, 22], [22]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:1]([C:7]([c:11]1[cH:5][cH:17][c:2]([O:19][CH3:3])[cH:18][cH:6]1)=[O:12])=[S:22]([CH3:8])[CH3:9].[CH:4](=[O+:21][CH3:20])[c:23]1[cH:15][cH:13][cH:10][cH:14][cH:16]1>>[CH:1]([CH:4]([O:21][CH3:20])[c:23]1[cH:15][cH:13][cH:10][cH:14][cH:16]1)([C:7]([c:11]1[cH:5][cH:17][c:2]([O:19][CH3:3])[cH:18][cH:6]1)=[O:12])[S+:22]([CH3:8])[CH3:9]", "epd": [["Pi-/Sigma+", [1, 22], [1, 4]], ["Pi-/LP+", [4, 21], [21]]]}
{"reaction_name": "Tertiary alcohol substitution by hydrogen halide", "rsmi": "[Br:4][H:7].[CH3:1][C:5]([CH3:2])([CH3:3])[OH:6]>>[CH3:1][C:5]([CH3:2])([CH3:3])[Br:4].[OH:6][H:7]", "epd": [["LP-/Sigma+", [6], [6, 7]], ["Sigma-/LP+", [4, 7], [4]], ["Sigma-/LP+", [5, 6], [6]], ["LP-/Sigma+", [4], [4, 5]]]}
{"reaction_name": "Duff formylation", "rsmi": "[OH:1][c:2]1[c:3]([H:10])[cH:4][cH:5][cH:6][cH:7]1.[CH+:8]=[O:9]>>[OH:1][c:2]1[c:3]([CH:8]=[O:9])[cH:4][cH:5][cH:6][cH:7]1.[H+:10]", "epd": [["Sigma-/Sigma+", [3, 10], [3, 8]]]}
{"reaction_name": "Propargylboration", "rsmi": "[C:1](#[CH:2])[CH2:11][B:9]([O:5][CH3:3])[O:6][CH3:4].[O:7]=[CH:10][CH3:8]>>[C:1](#[CH:2])[CH2:11][CH:10]([O:7][B:9]([O:5][CH3:3])[O:6][CH3:4])[CH3:8]", "epd": [["Pi-/Sigma+", [7, 10], [7, 9]], ["Sigma-/Sigma+", [9, 11], [10, 11]]]}
